US08633186B2
Concentrated HCl (39 mL) was added to a solution of 2,6-dinitrobenzonitrile (11.3 g, 58.5 mmol) in MeOH (235 mL) and 1,4-dioxane (145 mL) at 70° C. External heating was removed, and iron powder (11.44 g, 205 mmol) was added slowly in portions at a rate which maintained a temperature of 70° C. After the addition of iron was complete, the reaction was heated at reflux for a further 30 min, then cooled to room temperature and poured into EtOAc (400 mL) and water (400 mL). The solids were filtered out and extracted twice with boiling EtOAc (300 mL). The combined organic extract was dried with MgSO4, filtered and evaporated to give 2-amino-6-nitrobenzonitrile (6.5 g, 68%) as a red solid, which was used without further purification. 1H-NMR (400 MHz, DMSO-d6) δ 7.48-7.54 (m, 1H), 7.41-7.45 (m, 1H), 7.18-7.22 (m, 1H), 6.74 (broad s, 2H).

reactant | HCl | 39 mL | Cl | ClH
reactant | 2,6-dinitrobenzonitrile | 58.5 mmol, 11.3 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
reactant | water | 400 mL | O | H2O
solvent | MeOH | 235 mL | CO | CH4O
solvent | 1,4-dioxane | 145 mL | O1CCOCC1 | C4H8O2
catalyst | iron | 205 mmol, 11.44 g | [Fe] | Fe
product | 2-amino-6-nitrobenzonitrile | 6.5 g, 68% | NC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H5N3O2
